US07435735B2
Step 8: 8-(Benzyloxy)-6-bromo-N-(3-chloro-4-fluorobenzyl)-2-methyl-1-oxo-1,2,3,4-tetrahydropyrrolo-[1,2-a]pyrazine-7-carboxamide
To a mixture of 8-(benzyloxy)-N-(3-chloro-4-fluorobenzyl)-2-methyl-1-oxo-1,2,3,4-tetrahydropyrrolo-[1,2-a]pyrazine-7-carboxamide (0.23 g, 0.51 mmol) and sodium bicarbonate (0.52 g, 6.13 mmol) in dichloromethane (50 mL) at 0° C., a solution of bromine in dichloromethane (0.5 M, 1.1 mL, 0.55 mmol) was added. The reaction mixture was stirred at room temperature for 2 h, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluted with ethyl acetate. Collection and concentration of appropriate fractions provided the titled product.

reactant | 8-(benzyloxy)-N-(3-chloro-4-fluorobenzyl)-2-methyl-1-oxo-1,2,3,4-tetrahydropyrrolo-[1,2-a]pyrazine-7-carboxamide | 0.51 mmol, 0.23 g | C(C1=CC=CC=C1)OC=1C(=CN2C1C(N(CC2)C)=O)C(=O)NCC2=CC(=C(C=C2)F)Cl | C23H21ClFN3O3
reactant | sodium bicarbonate | 6.13 mmol, 0.52 g | C([O-])(O)=O.[Na+]
reactant | bromine | BrBr | Br2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.55 mmol, 0.5 M, 1.1 mL | ClCCl | CH2Cl2
product | 8-(Benzyloxy)-6-bromo-N-(3-chloro-4-fluorobenzyl)-2-methyl-1-oxo-1,2,3,4-tetrahydropyrrolo-[1,2-a]pyrazine-7-carboxamide | C(C1=CC=CC=C1)OC=1C(=C(N2C1C(N(CC2)C)=O)Br)C(=O)NCC2=CC(=C(C=C2)F)Cl | C23H20BrClFN3O3
